US08124764B2
N-(2-aminophenyl)-4-(4-(8-methoxy-2-methylimidazo[1,2-a]pyridin-3-yl)pyrimidin-2-ylamino)benzamide
To a stirred solution of 3-methoxypyridin-2-amine (4.0 g, 32.2 mmol) in ethanol (40 mL) was added 3-chloro-2,4-pentanedione (5.5 mL, 48.0 mmol) at room temperature. The reaction mixture was heated to reflux and then stirred for 18 hours. The volatiles were concentrated under reduced pressure. The crude material was purified by column chromatography eluting with 15% EtOAc/hexane to afford Int-1 (2.5 g, 38%). Mass (m/z): 205 [M++1]. 1HNMR 200 MHz (CDCl3): δ 9.23 (d, J=6.2 Hz, 1H), 6.78 (t, J=7.4 Hz, 1H), 6.61 (d, J=7.8 Hz, 1H), 4.01 (s, 3H), 2.77 (s, 3H), 2.67 (s, 3H). A solution of Int-1 (02.5 g, 12.2 mmol) in DMF-DMA (15 mL) was stirred at reflux temperature for 48 hours. The volatile was concentrated under reduced pressure. The residue was diluted with diethyl ether and stirred for 20 minutes. The precipitated solid was filtered off, washed with hexane-ether and dried under vacuum to afford Int-2 (2.5 g, 81%) as brown color solid. Mass (m/z): 260 [M++1]. 1H NMR 200 MHz (CDCl3): δ 9.23 (d, J=6.2 Hz, 1H), 7.78 (t, J=12.6 Hz, 1H), 6.78 (t, J=7.4 Hz, 1H), 6.61 (d, J=7.8 Hz, 1H), 5.57 (d, J=12.4 Hz, 1H), 4.01 (s, 3H), 3.04 (brs, 6H), 2.77 (s, 3H). To a solution of Int-2 (2.5 g, 9.6 mmol) in DMF (12 mL) was added Int-3 (4.6 g, 24.0 mmol), followed by K2CO3 (3.9 g, 28.8 mmol) at room temperature. The reaction mixture was heated to 110° C. and then stirred for 16 hours. The reaction mixture was allowed to room temperature, diluted with ice cold water and stirred further for 20 minutes. The precipitated solid was filtered off, washed with water (2×10 mL) and dried under vacuum to afford Int-4 (2.8 g, 75%) as brown solid. Mass (m/z): 390 [M++1]. 1HNMR 200 MHz (dmso-d6): δ 10.12 (s, 1H), 9.31 (d, J==6.2 Hz, 1H), 8.60 (d, J=5.6 Hz, 1H), 7.92-7.86 (m, 4H), 7.19 (d, J=5.4 Hz, 1H), 6.95-6.85 (m, 2H), 3.95 (s, 3H), 3.81 (s, 3H), 2.63 (s, 3H). A mixture of Int-4 (2.8 g, 7.17 mmol) and 4 N HCl (50 mL) was stirred at reflux temperature for 3 hours. The reaction mixture was cooled to 0° C. and stirred for 20 minutes. The precipitated solid was filtered off, washed with water (2×10 mL) and dried under vacuum to afford Int-5 (2.3 g, 88%) as solid. Mass (m/z): 376 [M++1]. 1HNMR 200 MHz (dmso-d6): δ 10.12 (s, 1H), 9.31 (d, J=6.2 Hz, 1H), 8.60 (d, J=5.6 Hz, 1H), 7.92-7.86 (m, 4H), 7.19 (d, J=5.4 Hz, 1H), 6.95-6.85 (m, 2H), 3.81 (s, 3H), 2.63 (s, 3H). To a stirred suspension of Int-5 (1.0 g, 2.6 mmol) in DMF (8 mL) were added HOBt (0.35 g, 2.6 mmol), EDCI (1.1 g, 5.8 mmol), N-ethyldiisopropylamine (1.1 mL, 6.64 mmol) and o-phenylenediamine (0.28 g, 2.6 mmol) at 0° C. After the completion of addition, the reaction mixture was allowed to room temperature and the stirring was continued for 16 hours. The reaction mixture was diluted with ice cold water (80 mL) and stirred for 20 minutes. The precipitated solid was filtered off, washed with water (2×10 mL) and dried under vacuum. The crude material was purified over silica gel column chromatography eluting with 2% MeOH/DCM to afford the title compound (0.24 g, 20%) as solid. Mass (m/z): 466 [M++1]. 1H NMR (200 MHz, dmso-d6): δ 10.0 (s, 1H), 9.53 (s, 1H), 9.33 (d, J=5.8 Hz, 1H), 8.59 (d, J=5.6 Hz, 1H), 7.93 (brs, 4H), 7.16-7.21 (m, 2H), 7.0-6.85 (m, 3H), 6.77 (d, J=7.2 Hz, 1H), 6.61 (d, J=7.0 Hz, 1H), 4.87 (bs, 2H), 3.95 (s, 3H), 2.63 (s, 3H). 13C NMR (125 MHz, dmso-d6): δ 164.7, 159.2, 158.0, 156.8, 147.7, 145.6, 143.3, 143.0, 139.6, 128.4, 127.0, 126.5, 126.2, 123.6, 120.6, 118.5, 117.8, 116.2, 116.1, 112.7, 110.0, 103.9, 55.8, 16.5.

reactant | 3-methoxypyridin-2-amine | 32.2 mmol, 4.0 g | COC=1C(=NC=CC1)N | C6H8N2O
reactant | 3-chloro-2,4-pentanedione | 48.0 mmol, 5.5 mL | ClC(C(C)=O)C(C)=O | C5H7ClO2
reactant | K2CO3 | 28.8 mmol, 3.9 g | C(=O)([O-])[O-].[K+].[K+]
reactant | HCl | 4 N, 50 mL | Cl | ClH
reactant | HOBt | 2.6 mmol, 0.35 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 5.8 mmol, 1.1 g | CCN=C=NCCCN(C)C | C8H17N3
reactant | N-ethyldiisopropylamine | 6.64 mmol, 1.1 mL | C(C)N(C(C)C)C(C)C | C8H19N
reactant | o-phenylenediamine | 2.6 mmol, 0.28 g | C1(=C(C=CC=C1)N)N | C6H8N2
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | DMF-DMA | 15 mL | CN(C)C(OC)OC | C5H13NO2
solvent | DMF | 12 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | N-(2-aminophenyl)-4-(4-(8-methoxy-2-methylimidazo[1,2-a]pyridin-3-yl)pyrimidin-2-ylamino)benzamide | 0.24 g, 20% | NC1=C(C=CC=C1)NC(C1=CC=C(C=C1)NC1=NC=CC(=N1)C1=C(N=C2N1C=CC=C2OC)C)=O | C26H23N7O2
